US07820707B2
e) 2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
2-(2-Bromoacetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (2.91 g, 8.06 mmol) was dissolved in DMF (25 mL) and potassium carbonate (2.23 g, 16.11 mmol), followed by 3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde (1.39 g, 8.46 mmol), added. The mixture was stirred at 60° C. for 25 min after which time the reaction mixture was diluted with water (˜800 mL), then acidified with 5 N HCl until pH 1. During acidification a free flowing solid was obtained which was collected by filtration. NMR analysis indicated ˜60-70% purity of desired product. The solid was successfully triturated with a mixture of DCM/ether to give a light beige solid which was collected by filtration. The mother liquor was concentrated and a second batch obtained using a similar process. The batches were combined to yield the title product (1.76 g, 3.95 mmol, 49%).

reactant | 2-(2-Bromoacetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 8.06 mmol, 2.91 g | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO | C13H17BrN2O3S
reactant | potassium carbonate | 16.11 mmol, 2.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | 8.46 mmol, 1.39 g | FC(C1=NNC=C1C=O)(F)F | C5H3F3N2O
reactant | HCl | 5 N | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | ˜800 mL | O | H2O
product | 2-(2-(4-Formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-N-(2-hydroxyethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 3.95 mmol, 1.76 g, 49% | C(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)NCCO)C(F)(F)F | C18H19F3N4O4S
